US07825253B2
N2-(2-Methoxy-benzyl)-N5-(3-methyl-3H-imidazol-4-ylmethyl)-quinoline-2,5-diamine
The title compound, MS: m/e=374.4 (M+H+), was prepared in accordance with the general method of example 1 from 5-bromo-2-chloroquinoline, 2-methoxybenzylamine and (1-methyl-1H-imidazol-5-yl)methylamine.

reactant | 5-bromo-2-chloroquinoline | BrC1=C2C=CC(=NC2=CC=C1)Cl | C9H5BrClN
reactant | 2-methoxybenzylamine | COC1=C(CN)C=CC=C1 | C8H11NO
reactant | (1-methyl-1H-imidazol-5-yl)methylamine | CN1C=NC=C1CN | C5H9N3
product | N2-(2-Methoxy-benzyl)-N5-(3-methyl-3H-imidazol-4-ylmethyl)-quinoline-2,5-diamine | COC1=C(CNC2=NC=3C=CC=C(C3C=C2)NCC=2N(C=NC2)C)C=CC=C1 | C22H23N5O
